US05612340
31.91 g (230.3 mmol) of 2-chloro-5-cyano-pyridine are placed in 1.6 liters of diethyl ether under nitrogen, and 155 ml (22% in tetrahydrofuran, 456 mmol) of methylmagnesium chloride are added. The red suspension is stirred for 14 h at RT, poured onto 1.6 liters of ice/water and 320 ml of concentrated hydrochloric acid and stirred for 14 h at RT. Extraction with diethyl ether and methylene chloride, drying with MgSO4 and concentration give 5-acetyl-2-chloro-pyridine; Rf =0.46 (hexane:ethyl acetate=2:1).

reactant | 2-chloro-5-cyano-pyridine | 230.3 mmol, 31.91 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | methylmagnesium chloride | 456 mmol, 155 ml | C[Mg]Cl
reactant | hydrochloric acid | 320 ml | Cl | ClH
reactant | diethyl ether | 1.6 liters | C(C)OCC | C4H10O
product | 5-acetyl-2-chloro-pyridine | C(C)(=O)C=1C=CC(=NC1)Cl | C7H6ClNO
